US09403798B2
tert-Butyl 4-(4-fluorophenyl)-4-hydroxy-2-methylpiperidine-1-carboxylate
To a tetrahydrofuran solution (10 mL) of 1-bromo-4-fluorobenzene (492 mg, 2.81 mmol), n-butyl lithium (1.62 M, hexane solution) (1.73 mL, 2.81 mmol) was added at −78° C. and the resultant mixture was stirred for 40 minutes. To the reaction solution, a tetrahydrofuran solution of tert-butyl 2-methyl-4-oxopiperidine-1-carboxylate (500 mg, 2.34 mmol) was added and the resultant mixture was stirred at room temperature for 1 day. After completion of the reaction, water was added to the reaction solution and extraction from the resultant mixture with ethyl acetate was performed. The organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure to obtain a crude product (729 mg) of the title compound.

reactant | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
reactant | 1-bromo-4-fluorobenzene | 2.81 mmol, 492 mg | BrC1=CC=C(C=C1)F | C6H4BrF
reactant | n-butyl lithium | 2.81 mmol, 1.62 M, 1.73 mL | C(CCC)[Li]
reactant | tert-butyl 2-methyl-4-oxopiperidine-1-carboxylate | 2.34 mmol, 500 mg | CC1N(CCC(C1)=O)C(=O)OC(C)(C)C | C11H19NO3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | tert-Butyl 4-(4-fluorophenyl)-4-hydroxy-2-methylpiperidine-1-carboxylate | 729 mg | FC1=CC=C(C=C1)C1(CC(N(CC1)C(=O)OC(C)(C)C)C)O | C17H24FNO3
